US05444127
N,N-bis(3-(dimethylamino)propyl)thiourea was prepared as follows: To a reaction kettle was added 152.2 g (2 moles) thiourea and 449.6 g (4.4 moles) dimethylaminopropylamine and heated to about 145° C. for 10 hours. Thereafter, excess amine was stripped from the reaction mass, The resulting product was a clear amber liquid with a Brookfield viscosity of 2,500 cps at 25° C. using spindle #3 at 12 rpm.

reactant | thiourea | 2 moles, 152.2 g | NC(=S)N | CH4N2S
reactant | dimethylaminopropylamine | 4.4 moles, 449.6 g | CN(C)CCCN | C5H14N2
product | N,N-bis(3-(dimethylamino)propyl)thiourea | CN(CCCN(C(=S)N)CCCN(C)C)C | C11H26N4S
